Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7],4.57627040196
[O:1]=[C:2]=[C:3][O:4][C:5][H:6]>>[C:5][H:6].[O:1][C:2]#[C:3][O:4],4.70219854355
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.44718518933
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],1.5949845051499998
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-5.18631946235
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8],6.15989858
[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9][H:10],5.941398003659999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.80959438627
[C:1](=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])([H:5])[H:6].[C:3]#[C:4]>>[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.977355559689999
[H:1].[O:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-3.19594942497
[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.14908902925
[C:2]([H:3])#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[H:8],-2.74224381611
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]#[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],2.38491274278
[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],1.0754711823999998
[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3],6.48304160556
[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]=[C:3]([C:4]([O:5][H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.07762056689
[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.53419154724
[H:1][C:2][O:3][C:4]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.34853934045
[H:1][C:2]#[C:3][C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])[H:11],2.9189731188
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-1.73387480865
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:5],4.01833553091
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]=[C:13]([H:14])[H:15]>>[C:10]([H:11])#[C:12][C:13]([H:14])[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.01505493472
[C:1]#[C:2][O:3][H:4].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.53102917703
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.1792376470900003
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.9149926366
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],1.41028410996
[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[O:1][C@:2]([H:3])([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.064090210351
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1],8.02337989224
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1]#[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[C:3],6.39615685362
